US07553845B2
Benzyl [7-(dimethylamino)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]-carboxylate
80 mg (1.67 mmol) of sodium hydride (60% as a dispersion in oil) at room temperature are added in portions to 525 mg (1.11 mmol) of benzyl [3-(3-methoxy-4-nitrobenzoyl)-2-methyl-7-methylaminoindolizin-1-yl]carboxylate in solution in 10 mL of dimethylformamide. After 10 minutes, 138 μL (2.22 mmol) of methyl iodide are added to the reaction mixture. The medium is stirred at 40° C. for 2 hours, poured into a molar solution of hydrochloric acid and then extracted with ethyl acetate. The organic phase is washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The solid obtained is taken up in dichloromethane and filtered. 439 mg of a light orange-coloured solid are obtained.

reactant | sodium hydride | 1.67 mmol, 80 mg | [H-].[Na+]
reactant | benzyl [3-(3-methoxy-4-nitrobenzoyl)-2-methyl-7-methylaminoindolizin-1-yl]carboxylate | 1.11 mmol, 525 mg | COC=1C=C(C(=O)C2=C(C(=C3C=C(C=CN23)NC)C(=O)OCC2=CC=CC=C2)C)C=CC1[N+](=O)[O-] | C26H23N3O6
reactant | methyl iodide | 2.22 mmol, 138 μL | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl [7-(dimethylamino)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]-carboxylate | 439 mg, Yield: 81% | CN(C=1C=CN2C(=C(C(=C2C1)C(=O)OCC1=CC=CC=C1)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O)C | C27H25N3O6
